US04379788
2-{4-[2-Hydroxy-3-(2-(3,4-dimethoxy-phenyl)-N-propylethylamino)-propoxy]-phenyl}-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one
This compound was prepared analogous to Example 2 from 2-[4-(1,2-epoxy-propoxy)-phenyl]-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one and N-propyl-2-(3,4-dimethoxyphenyl)-ethylamine.

reactant | 2-[4-(1,2-epoxy-propoxy)-phenyl]-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one | O1C(C1C)OC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1C)=O)OC | C19H18N2O4
reactant | N-propyl-2-(3,4-dimethoxyphenyl)-ethylamine | C(CC)NCCC1=CC(=C(C=C1)OC)OC | C13H21NO2
product | 2-{4-[2-Hydroxy-3-(2-(3,4-dimethoxy-phenyl)-N-propylethylamino)-propoxy]-phenyl}-3-methyl-6-methoxy-3,4-dihydro-quinazolin-4-one | OC(COC1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(N1C)=O)OC)CN(CCC)CCC1=CC(=C(C=C1)OC)OC | C32H39N3O6
